US07405300B2
Step 1: 1-Benzenesulfonyl-2-chloro-1H-indole-3-carboxaldehyde:
The title compound is prepared in accordance with the procedure of O. Olton et al., Tetrahedron, 54 (1998), 13915-13928 as follows. Sodium hydroxide is added to a stirred solution of 2-chloro-1H-indole-3-carboxaldehyde (239 mg, 1.33 mmol) in ethanol (10 mL). After 2 hr, the solvent is removed and the solid residue is dissolved in acetone and treated with benzenesulfonyl chloride (0.25 mL, 1.96 mmol). Soon a solid precipitated. After stirring for 1.5 hr at room temperature, the reaction mixture is heated to reflux for 1.5 hr. After cooling, water is added and the reaction is extracted with dichloromethane. The combined dichloromethane layer is washed with brine, dried over sodium sulfate and concentrated to an oil that is purified by chromatography eluting with heptane-0 to 10% ethyl acetate. Product containing fractions are combined and concentrated to afford 1-benzenesulfonyl-2-chloro-1H-indole-3-carboxaldehyde (70 mg, 17% yield) as a yellow solid. MS 320 (M+H); NMR 10.09 (1H, s); 8.26 (1H, d, J=9 Hz); 8.15 (3H, m); 7.85 (3H, m); 7.56 (2H, m).

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | 2-chloro-1H-indole-3-carboxaldehyde | 1.33 mmol, 239 mg | ClC=1NC2=CC=CC=C2C1C=O | C9H6ClNO
reactant | benzenesulfonyl chloride | 1.96 mmol, 0.25 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1-benzenesulfonyl-2-chloro-1H-indole-3-carboxaldehyde | 70 mg, 17% yield | C1(=CC=CC=C1)S(=O)(=O)N1C(=C(C2=CC=CC=C12)C=O)Cl | C15H10ClNO3S
